US04751301
4-(2-Benzothiazolylthio)-morpholine
In a two-liter multineck flask equipped with a stirrer, dropping funnel, condenser, thermometer and pH electrode, 435 g of morpholine and 1000 g of toluene were placed. At 20°-30° C. 332 g of dibenzothiazolyl disulphide were added in small portions in the course of 20-30 minutes. At the same time, 200 g of 20% strength sodium hydroxide solution were added dropwise, so that the pH was between 10 and 13. After the addition had ended, stirring was continued for one hour, the two phases were separated, and the aqueous phase was extracted with 500 g of toluene. The combined organic phases gave after evaporation 4-(2-benzothiazolylthio)morpholine in 99.5% strength yield. The product had an active substance content of 99%, a free amine content of 0.1%, a methanol-insolubles content of 0% and a melting point of 85.5°-87° C. for a heating-up rate of 1° C./min. These values remained unchanged after 24 hours of ageing in a water-moist atmosphere.

reactant | morpholine | 435 g | N1CCOCC1 | C4H9NO
reactant | toluene | 1000 g | C1(=CC=CC=C1)C | C7H8
reactant | dibenzothiazolyl disulphide | 332 g | C1=CC=C2C(=C1)N=C(S2)SSC3=NC4=CC=CC=C4S3 | C14H8N2S4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 4-(2-Benzothiazolylthio)-morpholine | S1C(=NC2=C1C=CC=C2)SN2CCOCC2 | C11H12N2OS2
